US05643919
a) 2-(3,4-Dimethoxyphenyl)ethylaminocarbonyl-phenylacetic acid-N,N-di-[2-(2,3,4-trimethoxyphenyl)ethyl]amide
To a solution of 18.0 g (52.4 mmol) of monoethylphenylmalonate-2-(3,4-dimethoxyphenyl)ethylamide in 150 ml of anhydrous dimethylformamide are added, at ambient temperature 9.0 g (55.5 mmol) of N,N'-carbonyldiimidazole in batches. After 30 minutes 18.0 g (44.3 mmol) of di-[2-(2,3,4-trimethoxyphenyl)ethyl]amine are added and the mixture is stirred for 30 minutes. Then the solvent is distilled off in vacuo, the residue is taken up in 1.5 liters of CH2Cl2 and extracted twice with 250 ml of water and 200 ml of 1N HCl, one after the other. The organic phase is evaporated down after drying over Na2SO4 and, after purification over a silica gel column (eluant: CH2Cl2 /MeOH 100:2) the residue is crystallised from ethyl acetate/ether. Yield: 35.5 g

reactant | monoethylphenylmalonate 2-(3,4-dimethoxyphenyl)ethylamide | 52.4 mmol, 18.0 g | C(C)OC(C(C(=O)[O-])C1=CC=CC=C1)=O.COC=1C=C(C=CC1OC)CC[NH-]
reactant | di-[2-(2,3,4-trimethoxyphenyl)ethyl]amine | 44.3 mmol, 18.0 g | COC1=C(C=CC(=C1OC)OC)CCNCCC1=C(C(=C(C=C1)OC)OC)OC | C22H31NO6
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 2-(3,4-Dimethoxyphenyl)ethylaminocarbonyl-phenylacetic acid-N,N-di-[2-(2,3,4-trimethoxyphenyl)ethyl]amide | COC1=C(C=CC(=C1OC)OC)CCN(C(C(C1=CC=CC=C1)C(=O)NCCC1=CC(=C(C=C1)OC)OC)=O)CCC1=C(C(=C(C=C1)OC)OC)OC | C41H50N2O10
